US05834454
A mixture of ethyl 1-(2-tert-butoxycarbonylethyl)-4-methyl-1H-indole-2-carboxylate (3.76 g, 11.4 mmol), trifluoroacetic acid (14.8 g, 130 mmol) and dichloromethane (50 ml) was stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure and water was added to the residue, followed by extraction with diethyl ether (three times). The extract solution was washed with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain ethyl 1-(2-carboxyethyl)-4-methyl-1H-indole-2-carboxylate (3.12 g).

reactant | ethyl 1-(2-tert-butoxycarbonylethyl)-4-methyl-1H-indole-2-carboxylate | 11.4 mmol, 3.76 g | C(C)(C)(C)OC(=O)CCN1C(=CC2=C(C=CC=C12)C)C(=O)OCC | C19H25NO4
reactant | trifluoroacetic acid | 130 mmol, 14.8 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | ethyl 1-(2-carboxyethyl)-4-methyl-1H-indole-2-carboxylate | 3.12 g | C(=O)(O)CCN1C(=CC2=C(C=CC=C12)C)C(=O)OCC | C15H17NO4
